US07148249B2
N-[2-(dimethylamino)-ethyl]-sulphanilic acid amide
5.26 g sulphanilic acid fluoride and 16.5 ml of N,N-dimethyl-ethylenediamine are stirred for 4 hours at 100° C., then dissolved in ethyl acetate and extracted three times with saline solution. The residue obtained by evaporation of the organic phase is crystallised from diethyl ether and dried at 60° C.

reactant | sulphanilic acid fluoride | 5.26 g | S(=O)(C1=CC=C(C=C1)N)(=O)F | C6H6FNO2S
reactant | N,N-dimethyl-ethylenediamine | 16.5 ml | CN(CCN)C | C4H12N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(dimethylamino)-ethyl]-sulphanilic acid amide | CN(CCNS(=O)(C1=CC=C(C=C1)N)=O)C | C10H17N3O2S
